US05155112
(1R,2S,3R,5R)-3-[6-Amino-9H-purin-9-yl]-5-[((2,3-dimethylbut-2-yl)dimethylsilyloxy)methyl]-1,2-cyclopentanediol
A mixture of aristeromycin (50 g) and dimethylformamide (250 ml) was stirred at room temperature and imidazole (50 g) and then dimethylthexylsilyl chloride (10 ml) were added. Three further 10 ml portions of dimethylthexylsilyl chloride were added after 20 min, 1 h and 1.75 h. After 4 h the resulting mixture was poured into rapidly stirred water (2.5 L). The suspension was filtered and the residue washed with water (2×250 ml). The air dried solid was added to di-isopropyl ether (500 ml) and stirred for 20 min. The suspension was filtered and the residue collected, stirred with diethyl ether (500 ml) and filtered to give the title compound (49 g); 1H nmr (DMSO-d6) δ8.13 (1H), 8.09 (1H), 7.18 (2H), 5.03-4.93 (1H), 4.76-4.60 (2H), 4.41-4.28 (1H), 3.88-3.78 (1H), 3.72-3.57 (2H), 2.28-1.70 (3H), 1.67-1.52 (1H), 0.95-0.75 (12H), 0.1 (6H).

reactant | aristeromycin | 50 g | C1=NC(=C2C(=N1)N(C=N2)[C@@H]3C[C@@H]([C@H]([C@H]3O)O)CO)N | C11H15N5O3
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | imidazole | 50 g | N1C=NC=C1 | C3H4N2
reactant | dimethylthexylsilyl chloride | 10 ml | C[Si](C(C)(C)C(C)C)(C)Cl | C8H19ClSi
solvent | water | 2.5 L | O | H2O
product | (1R,2S,3R,5R)-3-[6-Amino-9H-purin-9-yl]-5-[((2,3-dimethylbut-2-yl)dimethylsilyloxy)methyl]-1,2-cyclopentanediol | 49 g | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)CO[Si](C)(C)C(C)(C(C)C)C)O)O | C19H33N5O3Si
